US06710068B2
Preparation of 4,5-difluoro-3-(3,5-dimethylphenylsulphonyl) indole-2-carboxyserinamide
4,5-Difluoro-3-(3,5-dimethylphenylsulphonyl)indole 2-carboxylic acid (3.52 g) and L-serinamide hydrochloride (2.77 g) were dissolved in anhydrous dimethylformamide (90 ml). Triethylamine (2.8 ml) was added and the mixture stirred for 5 min. Benzotriazol-1-yloxy-tris(dimethylamino)phosphosphonium hexafluorophosphate (BOP) (4.69 g) was added and the orange mixture was stirred overnight at room temperature. The reaction mixture was diluted with water (350 ml) and the white solid precipitate collected by filtration, washed with water and dried to afford the title product (3.86 g) as a white powder (97.9% pure by hplc).

reactant | 4,5-Difluoro-3-(3,5-dimethylphenylsulphonyl)indole 2-carboxylic acid | 3.52 g | FC1=C2C(=C(NC2=CC=C1F)C(=O)O)S(=O)(=O)C1=CC(=CC(=C1)C)C | C17H13F2NO4S
reactant | L-serinamide hydrochloride | 2.77 g | Cl.N[C@@H](CO)C(=O)N
reactant | Triethylamine | 2.8 ml | C(C)N(CC)CC | C6H15N
reactant | dimethylformamide | 90 ml | CN(C=O)C | C3H7NO
solvent | water | 350 ml | O | H2O
product | 4,5-difluoro-3-(3,5-dimethylphenylsulphonyl) indole 2-carboxyserinamide | 3.86 g, 97.9% | FC1=C2C(=CNC2=CC=C1F)S(=O)(=O)C1=CC(=CC(=C1)C)C.C(=O)(O)[C@](N)(CO)C(=O)N | InChI=1S/C16H13F2NO2S.C4H8N2O4/c1-9-5-10(2)7-11(6-9)22(20,21)14-8-19-13-4-3-12(17)16(18)15(13)14;5-2(8)4(6,1-7)3(9)10/h3-8,19H,1-2H3;7H,1,6H2,(H2,5,8)(H,9,10)/t;4-/m.0/s1
